US08048897B2
(4) 3-Methoxy-2-(4-methoxybenzyl)phenol
To a solution of (2-benzyloxy-6-methoxyphenyl)-(4-methoxyphenyl)-methanol (2.13 g, 6.08 mmol) in methanol (50 mL), a 20% palladium hydroxide catalyst (0.32 g) was added and furthermore 2N—HCl (1.8 mL) was added thereto. The reaction mixture was stirred under a hydrogen atmosphere for 24 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (1.31 g, 89%).

reactant | (2-benzyloxy-6-methoxyphenyl)-(4-methoxyphenyl)-methanol | 6.08 mmol, 2.13 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OC)C(O)C1=CC=C(C=C1)OC | C22H22O4
reactant | HCl | 1.8 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium hydroxide | 0.32 g | [OH-].[Pd+2].[OH-]
product | 3-Methoxy-2-(4-methoxybenzyl)phenol | 1.31 g, 89% | COC=1C(=C(C=CC1)O)CC1=CC=C(C=C1)OC | C15H16O3
